US04342775
3-(1-imidazolyl)-2,3-dihydro-6-hydroxy-4H-1-benzopyran-4-one hydrobromide, treated with the stoichiometric amount of NaHCO3, gave 3-(1-imidazolyl)-2,3-dihydro-6-hydroxy-4H-1-benzopyran-4-one;

reactant | 3-(1-imidazolyl)-2,3-dihydro-6-hydroxy-4H-1-benzopyran-4-one hydrobromide | Br.N1(C=NC=C1)C1COC2=C(C1=O)C=C(C=C2)O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(1-imidazolyl)-2,3-dihydro-6-hydroxy-4H-1-benzopyran-4-one | N1(C=NC=C1)C1COC2=C(C1=O)C=C(C=C2)O | C12H10N2O3
